US07772170B2
Preparation of diamyl ammonium diamyl dithiocarbamate
Diamyl amine (75.13 grams, 0.478 moles) was charged into a 3-neck, round-bottom flask fitted with agitator, condenser, and thermometer. The reactor was placed in cold-water bath, and the CS2 (46.30 grams, 0.608 moles) was added drop-wise through addition funnel while maintaining the reaction temperature under 40° C. The reaction was then placed aspirator vacuum to remove excess CS2.

reactant | Diamyl amine | 0.478 moles, 75.13 grams | C(CCCC)NCCCCC | C10H23N
reactant | CS2 | 0.608 moles, 46.30 grams | C(=S)=S | CS2
product | diamyl ammonium diamyl dithiocarbamate | C(CCCC)N(C([S-])=S)CCCCC.C(CCCC)[NH2+]CCCCC | InChI=1S/C11H23NS2.C10H23N/c1-3-5-7-9-12(11(13)14)10-8-6-4-2;1-3-5-7-9-11-10-8-6-4-2/h3-10H2,1-2H3,(H,13,14);11H,3-10H2,1-2H3
